US05708008
5-benzylthio-3-(1-methylpiperidin-4-yl)-1H-indole
Using 0.325 gm (1.11 mMol) 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole and 0.55 gm (2.22 mMol) dibenzyl disulfide gave 0.065 gm (17.0%) of the title compound as a colorless solid.

reactant | 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole | 1.11 mMol, 0.325 gm | BrC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H17BrN2
reactant | dibenzyl disulfide | 2.22 mMol, 0.55 gm | C(C1=CC=CC=C1)SSCC1=CC=CC=C1 | C14H14S2
product | 5-benzylthio-3-(1-methylpiperidin-4-yl)-1H-indole | 0.065 gm, 17.0% | C(C1=CC=CC=C1)SC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C21H24N2S
